US08012966B2
5-(2-Diethylamino-ethyl)-2-(5-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-methoxyl-1,3-dihydro-indol-2-one (prepared according to U.S. Pat. No. 6,114,371) as starting materials to give 5-(2-diethylamino-ethyl)-2-(5-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetra hydro-pyrrolo[3,2-c]pyridin-4-one (80 mg, 65.0%) as a yellow solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 5-methoxyl-1,3-dihydro-indol-2-one | O(C)C=1C=C2CC(NC2=CC1)=O | C9H9NO2
product | 5-(2-diethylamino-ethyl)-2-(5-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetra hydro-pyrrolo[3,2-c]pyridin-4-one | 80 mg, 65.0% | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)OC)=O)=O)CC | C24H30N4O3
